US06706731B2
1.1 g of the above (E/Z) mixture of 4-[2-(2-methoxy-pyridin-4-yl)-vinyl-2H-isoquinolin-1-one in 20 ml of methanol are hydrogenated in the presence of 0.6 g of Pd/C (10%). Filtration through Celite, washing with a lot of methanol, concentrating by evaporation and column chromatography (SiO2, methylene chloride/acetone 3:1→acetone) yield 4-[2-(2-methoxy-pyridin-4-yl)-ethyl]-2H-isoquinolin-1-one; 1H NMR (DMSO-d6) δ11.10 (sb, HN), 8.22 (d, 1H), 8.03 (d, 1H), 7.81 (d, 1H), 7.75 (t, 1H), 7.50 (t, 1H), 6.92 (m, 1H), 6.88 (d, 1H), 6.70 (s, 1H), 3.80 (s, H3C), 2.93 (m, 2H), 2.84 (m, 2H).

reactant | 2-(2-methoxy-pyridin-4-yl)-vinyl-2H-isoquinolin-1-one | COC1=NC=CC(=C1)C=CN1C(C2=CC=CC=C2C=C1)=O | C17H14N2O2
reactant | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 4-[2-(2-methoxy-pyridin-4-yl)-ethyl]-2H-isoquinolin-1-one | COC1=NC=CC(=C1)CCC1=CNC(C2=CC=CC=C12)=O | C17H16N2O2
